US05998433
a) Synthesis of (E)-6-(4-stilbenecarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine
To a solution of 0.160 g (1.000 mmol) of 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride, 0.269 g (1.2 mmol) of (E)-4-stilbenecarboxylic acid and 0.55 ml (4.0 mmol) of triethylamine in 30 ml of dichloromethane, 0.24 g (1.5 mmol) of diethyl cyanophosphonate was added dropwise under ice-cooling, followed by overnight stirring at room temperature. The reaction mixture was poured into water and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate/dichloromethane=4/1/1), after which it was recrystallized from hexane to yield the desired product.

reactant | 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | 1.000 mmol, 0.160 g | Cl.O1C=CC2=C1CNCC2
reactant | (E)-4-stilbenecarboxylic acid | 1.2 mmol, 0.269 g | C1(=CC=C(C=C1)C(=O)O)\C=C\C1=CC=CC=C1 | C15H12O2
reactant | triethylamine | 4.0 mmol, 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 1.5 mmol, 0.24 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (E)-6-(4-stilbenecarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | C1(=CC=C(C=C1)C(=O)N1CC2=C(CC1)C=CO2)\C=C\C2=CC=CC=C2 | C22H19NO2
